US04374274
0.5 liter per hour of a mixture of acetophenone and a 30% strength solution of formaldehyde in isobutanol (the molar ratio of acetophenone to formaldehyde being 8:1) was reacted at 180° C., under 30 bar H2 pressure, in the apparatus, and over the catalyst, described in Example 1. The yield of propiophenone obtained was 52.8%, based on formaldehyde employed.

reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | formaldehyde | C=O | CH2O
solvent | isobutanol | C(C(C)C)O | C4H10O
product | propiophenone | C(CC)(=O)C1=CC=CC=C1 | C9H10O
